US07906528B2
Cs2CO3 (85 mg, 0.26 mmol) is added to a solution of 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol (100 mg, 0.22 mmol) in MeOH (4 mL). The mixture is heated at 60° C. for 30 min. The mixture is concentrated under reduced pressure, diluted with water (5 mL), and the product is extracted with DCM. The combined organic extracts are washed with brine, dried (Na2SO4), and concentrated under reduced pressure. Chromatography of the residue silica gel (hexane-EtOAc, 1:1) gives 1-[5-(2,6-dimethyl-phenyl)-1-(6-ethyl-2-methoxy-pyrimidin-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol as colorless oil: 1H NMR (CDCl3) 10.18 (s, 1H), 8.39 (s, 1H), 7.54 (s, 1H), 7.27-7.12 (m, 3H), 6.41 (s, 1H), 5.00 (d, J=6 Hz, 1H), 4.12 (s, 3H), 2.78 (dd, J=7, 15 Hz, 2H), 2.075 (s, 6H), 1.39 (t, J=7 Hz, 2.05-1.26 (m, 5H), 0.92 (t, J=7 Hz, 6H); LCMS (1) m/z 459.33 (2.65 min).

reactant | Cs2CO3 | 0.26 mmol, 85 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-[1-(2-chloro-6-ethyl-pyrimidin-4-yl)-5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol | 0.22 mmol, 100 mg | ClC1=NC(=CC(=N1)N1C=C(C=2C1=CN=C(C2)C2=C(C=CC=C2C)C)C(C(CC)CC)O)CC | C27H31ClN4O
solvent | MeOH | 4 mL | CO | CH4O
product | 1-[5-(2,6-dimethyl-phenyl)-1-(6-ethyl-2-methoxy-pyrimidin-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)N(C=C2C(C(CC)CC)O)C2=NC(=NC(=C2)CC)OC | C28H34N4O2
